US08207134B2
8) Synthesis of (3′R,4′S,5′S,6′R,7S)-1-benzenesulfonyl-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3′,4′,5′,6′-tetrahydro-spiro[furo[3,4,f]indole-7(5H),2′-[2H]pyran]
Under a nitrogen stream, to THF (1.4 mL) were added a solution of isopropyl magnesium bromide in THF (0.65 M, 0.78 mL, 0.51 mmol) and a solution of n-butyllithium in n-hexane (1.58 M, 645 μL, 1.02 mmol) under ice cooling, and the resultant solution was stirred for 30 minutes. The solution was then cooled to −78° C., and a solution of 1-benzenesulfonyl-6-bromo-5-(1-methoxy-1-methyl-ethoxymethyl)-1H-indole (186 mg, 0.42 mmol) in THF (0.75 mL) was added dropwise thereto. The resultant mixture was then stirred for 1 hour. A solution of 3,4,5-tris-benzyloxy-6-(benzyloxymethyl)-tetrahydro-pyran-2-one (686 mg, 1.27 mmol) in THF (0.75 mL) was added dropwise to the reaction mixture at the same temperature. The resultant mixture was stirred for 1 hour at −20° C., and then saturated aqueous ammonium chloride was added. The resultant mixture was extracted with dichloromethane, and the organic layer was dried (anhydrous magnesium sulfate). Solvent was then removed by distillation under reduced pressure. To the resulting residue was added THF (1.6 mL), methanol (1 mL) and p-toluenesulfonic acid (47 mg, 0.25 mmol), and the resultant mixture was stirred for 2 hours at room temperature. Solvent was then removed by distillation under reduced pressure, and the resulting residue was purified by silica gel flash column chromatography (developing solution=ethyl acetate:n-hexane (1:1)), to thereby obtain the titled compound (92 mg, 27%).

reactant | isopropyl magnesium bromide | C(C)(C)[Mg]Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 1.02 mmol, 1.58 M, 645 μL | CCCCCC | C6H14
reactant | 1-benzenesulfonyl-6-bromo-5-(1-methoxy-1-methyl-ethoxymethyl)-1H-indole | 0.42 mmol, 186 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=C(C=C12)Br)COC(C)(C)OC | C19H20BrNO4S
reactant | 3,4,5-tris-benzyloxy-6-(benzyloxymethyl)-tetrahydro-pyran-2-one | 1.27 mmol, 686 mg | C(C1=CC=CC=C1)OC1C(OC(C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)=O | C34H34O6
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | p-toluenesulfonic acid | 0.25 mmol, 47 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
solvent | THF | 1.6 mL | C1CCOC1 | C4H8O
solvent | THF | 0.51 mmol, 0.65 M, 0.78 mL | C1CCOC1 | C4H8O
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | (3′R,4′S,5′S,6′R,7S)-1-benzenesulfonyl-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3′,4′,5′,6′-tetrahydro-spiro[furo[3,4,f]indole-7(5H),2′-[2H]pyran] | 92 mg, 27% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC3=C(C=C12)[C@@]1(O[C@@H]([C@@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OC3 | C49H45NO8S
